US09302996B2
In acetonitrile (4 mL) was suspended 2,2-dimethyl-3-(4-{5-[5-(2,2,2-trifluoro-1,1-dimethylethyl)-1H-imidazol-2-yl]pyridin-2-yl}phenoxy)propanoic acid (175 mg), and 2N aqueous sodium hydroxide solution (391 μL) was added dropwise to the suspension. After adding acetonitrile (1 mL), the reaction mixture was stirred at room temperature overnight. Methanol was added until the reaction mixture became uniform solution, and tar-state insoluble material was separated by filtration. The filtrate was concentrated under reduced pressure, and the obtained solid residue was pulverized by ether, collected by filtration, washed with ether, and dried at room temperature in vacuum to obtain sodium 2,2-dimethyl-3-(4-{5-[5-(2,2,2-trifluoro-1,1-dimethylethyl)-1H-imidazol-2-yl]pyridin-2-yl}phenoxy)propanoate (174 mg).

reactant | 2,2-dimethyl-3-(4-{5-[5-(2,2,2-trifluoro-1,1-dimethylethyl)-1H-imidazol-2-yl]pyridin-2-yl}phenoxy)propanoic acid | 175 mg | CC(C(=O)O)(COC1=CC=C(C=C1)C1=NC=C(C=C1)C=1NC(=CN1)C(C(F)(F)F)(C)C)C | C23H24F3N3O3
reactant | sodium hydroxide | 2N, 391 μL | [OH-].[Na+]
reactant | Methanol | CO | CH4O
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | sodium 2,2-dimethyl-3-(4-{5-[5-(2,2,2-trifluoro-1,1-dimethylethyl)-1H-imidazol-2-yl]pyridin-2-yl}phenoxy)propanoate | 174 mg | CC(C(=O)[O-])(COC1=CC=C(C=C1)C1=NC=C(C=C1)C=1NC(=CN1)C(C(F)(F)F)(C)C)C.[Na+] | InChI=1S/C23H24F3N3O3.Na/c1-21(2,20(30)31)13-32-16-8-5-14(6-9-16)17-10-7-15(11-27-17)19-28-12-18(29-19)22(3,4)23(24,25)26;/h5-12H,13H2,1-4H3,(H,28,29)(H,30,31);/q;+1/p-1
